US08193199B2
Prepared according to Procedure G using N-(4-methoxybenzyl)(8-methyl-2-(2-(trifluoromethyl)phenyl)quinolin-3-yl)methanamine (1.1427 g, 2.62 mmol, 1 eq) and ammonium cerium(iv) nitrate (3.59 g, 6.55 mmol, 2.5 eq) in CH3CN—H2O (2:1, 12 mL). After purification, (8-methyl-2-(2-(trifluoromethyl)phenyl)quinolin-3-yl)methanamine was obtained as brown syrup. 1H NMR (DMSO-d6) δ ppm 8.47 (1H, s), 7.91 (1H, d, J=7.4 Hz), 7.84 (1H, d, J=7.4 Hz), 7.67-7.81 (2H, m), 7.47-7.62 (3H, m), 3.46-3.70 (2H, m), 2.61 (3H, s), 1.86 (2H, br. s.). Mass Spectrum (ESI) m/e=317.0 (M+1).

reactant | N-(4-methoxybenzyl)(8-methyl-2-(2-(trifluoromethyl)phenyl)quinolin-3-yl)methanamine | 2.62 mmol, 1.1427 g, 1 eq | COC1=CC=C(CNCC=2C(=NC3=C(C=CC=C3C2)C)C2=C(C=CC=C2)C(F)(F)F)C=C1 | C26H23F3N2O
reactant | ammonium cerium(iv) nitrate | 6.55 mmol, 3.59 g, 2.5 eq | [N+](=O)([O-])[O-].[Ce+4].[NH4+].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
solvent | CH3CN—H2O | 12 mL | CC#N.O
product | (8-methyl-2-(2-(trifluoromethyl)phenyl)quinolin-3-yl)methanamine | CC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)C(F)(F)F)CN | C18H15F3N2
